US07405228B2
Preparation of 4-(4,4-dimethoxy-3,3-difluoropiperidin-1-yl)-nitrobenzene
The mixture of 4-(3,3-difluoro-4-oxo-piperidin-1-yl)-nitrobenzene (25 mmol), trimethylorthoformate (51 mmol), p-toluene-sulphonic acid monohydrate (27 mmol) in methanol was heated at 45° C. for 24 hours. Solvent was removed and residual mass was taken into ethyl acetate and saturated sodium bicarbonate solution mixture. The organic layer was dried and removal of the solvent afforded title compound as a solid in 84% yield.

reactant | 4-(3,3-difluoro-4-oxo-piperidin-1-yl)-nitrobenzene | 25 mmol | FC1(CN(CCC1=O)C1=CC=C(C=C1)[N+](=O)[O-])F | C11H10F2N2O3
reactant | trimethylorthoformate | 51 mmol | COC(OC)OC | C4H10O3
reactant | p-toluene-sulphonic acid monohydrate | 27 mmol | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | CO | CH4O
product | 4-(4,4-dimethoxy-3,3-difluoropiperidin-1-yl)-nitrobenzene | 84% yield | COC1(C(CN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])(F)F)OC | C13H16F2N2O4
